US08865726B2
To a stirred solution of (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butanal (27 mg, 0.055 mmol) in DCE (1 mL) was added a solution of 2-(tert-butyldimethylsilyloxy)ethanamine (29 mg, 0.17 mmol) in THF (0.2 mL). The reaction was allowed to stir at ambient temperature for 15 minutes, at which point Na(OAc)3BH was added and the reaction allowed to stir at ambient temperature for 2 hours. The reaction mixture was partitioned between saturated aqueous NaHCO3 and dichloromethane. The aqueous layer was extracted with dichloromethane. The combined extracts were washed with brine, dried and concentrated to give (S)—N1-(2-(tert-butyldimethylsilyloxy)ethyl)-3-methyl-N2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)butane-1,2-diamine. The crude was used in the next step without further purification. LCMS (APCI+) m/z 650.9 [M+H]+.

reactant | (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butanal | 0.055 mmol, 27 mg | CC([C@@H](C=O)NC1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)C | C26H34N6O2Si
reactant | 2-(tert-butyldimethylsilyloxy)ethanamine | 0.17 mmol, 29 mg | [Si](C)(C)(C(C)(C)C)OCCN | C8H21NOSi
reactant | Na(OAc)3BH | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | (S)—N1-(2-(tert-butyldimethylsilyloxy)ethyl)-3-methyl-N2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)butane-1,2-diamine | [Si](C)(C)(C(C)(C)C)OCCNC[C@H](C(C)C)NC1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C | C34H55N7O2Si2
